US05194442
2,3-Dihydro-7-phenylsulfinyl-1-benzoxepin
6.00 g (23.6 mmol) of 2,3-dihydro-7-phenylthio-1-benzoxepin are introduced at 15°-20° C. into 59 ml of glacial acetic acid and, at this temperature, 5 ml of aqueous hydrogen peroxide solution (30% strength) are added dropwise. The mixture is stirred at this temperature for about 2 hours until all the precursor has reacted (TLC check). The mixture is then stirred into sodium bicarbonate/ice-water and extracted several times with diethyl ether. The combined ether phases are washed with water and saturated sodium chloride solution, dried over sodium sulfate and filtered, and the solvent is evaporated off in vacuo. 6.2 g of oil remain and are reacted without further purification.

reactant | 2,3-dihydro-7-phenylthio-1-benzoxepin | 23.6 mmol, 6.00 g | C1(=CC=CC=C1)SC=1C=CC2=C(C=CCCO2)C1 | C16H14OS
reactant | hydrogen peroxide | 5 ml | OO | H2O2
solvent | acetic acid | 59 ml | C(C)(=O)O | C2H4O2
product | 2,3-Dihydro-7-phenylsulfinyl-1-benzoxepin | C1(=CC=CC=C1)S(=O)C=1C=CC2=C(C=CCCO2)C1 | C16H14O2S
